US07572784B2
5-Chloro-2-iodobenzoic acid (2.8 g, 10 mmol) was taken up in dry methylene chloride (80 mL) and DMF (50 μL, cat.) followed by thionyl chloride (2.4 g, 20 mmol) were added. The mixture was stirred at reflux for 12 h, cooled to room temperature and evaporated in vacuo. The residue was azeotroped with toluene (2×10 mL) and used without further purification. The 5-chloro-2-iodobenzoyl chloride (10 mmol) was taken up in dry methylene chloride (50 mL) and N,O-dimethylhydroxylamine hydrochloride (1.1 g, 11 mmol) was added. The mixture was cooled to 0° C., and pyridine (2.4 g, 30 mmol) was added. The mixture was allowed to warm to room temperature, stir for 12 h, and was then quenched with saturated brine (20 mL). The organic phase was separated and the water phase was extracted with methylene chloride (2×10 mL). The combined organic extracts were dried with anhydrous MgSO4, filtered and evaporated in vacuo. The residue was purified using flash chromatography on silica gel (50 g) using methylene chloride as eluent to provide 5-chloro-2-iodo-N-methoxy-N-methylbenzamide (3.1 g, 95%) MS m/z=326 (M+H).

reactant | 5-Chloro-2-iodobenzoic acid | 10 mmol, 2.8 g | ClC=1C=CC(=C(C(=O)O)C1)I | C7H4ClIO2
reactant | thionyl chloride | 20 mmol, 2.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5-chloro-2-iodobenzoyl chloride | 10 mmol | ClC=1C=CC(=C(C(=O)Cl)C1)I | C7H3Cl2IO
reactant | N,O-dimethylhydroxylamine hydrochloride | 11 mmol, 1.1 g | Cl.CNOC
reactant | pyridine | 30 mmol, 2.4 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 μL | CN(C)C=O | C3H7NO
product | 5-chloro-2-iodo-N-methoxy-N-methylbenzamide | 3.1 g, 95% | ClC=1C=CC(=C(C(=O)N(C)OC)C1)I | C9H9ClINO2
